US07396849B2
2-(Benzhydrylidene-amino)-3-quinolin-5-yl-butyronitrile (8.36 g, 22.3 mmol) in dioxane (90 mL) was hydrolyzed with 1M HCl (90 mL) and the solution was stirred at rt for 16 h. The dioxane was removed under vacuum and the mixture was made basic with 2 M NaOH. The aqueous solution was extracted with chloroform:isopropanol (3:1). The organic extracts were pooled, dried over MgSO4, filtered and evaporated to leave an oil. The oily residue was purified by chromatography on SiO2, eluting with ethyl acetate and 5% methanol:ethyl acetate to give 2-amino-3-quinolin-5-yl-butyronitrile (Intermediate-E2) as a yellow solid 3.61 g (77%).

reactant | 2-(Benzhydrylidene-amino)-3-quinolin-5-yl-butyronitrile | 22.3 mmol, 8.36 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C#N)C(C)C1=C2C=CC=NC2=CC=C1 | C26H21N3
reactant | HCl | 1M, 90 mL | Cl | ClH
solvent | dioxane | 90 mL | O1CCOCC1 | C4H8O2
product | 2-amino-3-quinolin-5-yl-butyronitrile | 3.61 g, 77% | NC(C#N)C(C)C1=C2C=CC=NC2=CC=C1 | C13H13N3
